US06995268B2
1-(phenylethyl)-4-(ethoxycarbonyl)piperidine (0.25 g, 0.95 mmol) was converted into its carboxylic acid, which was then reacted with bis(4-fluorophenyl)methyl amine (0.25 g, 1.14 mmol), EDCI (0.25 g, 1.27 mmol), HOBT (0.20 g, 1.48 mmol) in Et3N (1.5 ml) and CH2Cl2 (20 ml) to produce 4-[(bis(4-fluorophenyl)ethylamino)carbonyl-1-(phenylethyl)piperidine, 0.32 g (74% yield) (procedure E). 1H NMR (CD3Cl) δ 7.29-7.03 (10H, m, Ar—H), 7.05-6.99 (3H, m, Ar—H), 6.22-6.20 (1H, d, J=7.8 Hz), p-FPh2CH), 6.00-5.97 (1H, d, J=7.5 Hz, NH), 3.08-3.04 (2H, bd, J=11.4 Hz, N(CH)2), 2.83-2.78 (2H, d), 2.62-2.57 (2H, m), 2.25-2.15 (1H, m, NCOCH), 2.10-2.03 (2H, t, J=11.4 Hz, N(CH)2), 1.96-1.81 (4H, m).

reactant | 1-(phenylethyl)-4-(ethoxycarbonyl)piperidine | 0.95 mmol, 0.25 g | C1(=CC=CC=C1)CCN1CCC(CC1)C(=O)OCC | C16H23NO2
reactant | bis(4-fluorophenyl)methyl amine | 1.14 mmol, 0.25 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)N | C13H11F2N
reactant | EDCI | 1.27 mmol, 0.25 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.48 mmol, 0.20 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | Et3N | 1.5 ml | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (bis(4-fluorophenyl)ethylamino)carbonyl-1-(phenylethyl)piperidine | 74% yield | FC1=CC=C(C=C1)C(CNC(=O)C1N(CCCC1)CCC1=CC=CC=C1)C1=CC=C(C=C1)F | C28H30F2N2O
